US04916235
Preparation of N-4-benzocyclobutenyl maleimide.
N-phenyl-maleamic acid (6.00 g, 27.62 mmol) was partially dissolved in about 100 ml of acetone in a 250 ml round-bottomed flask. To this stirred heterogeneous mixture was added solid nickel acetate tetrahydrate (0.25 g), followed by the mixture of acetic anhydride (6.27 g. 61.42 mmol) and triethylamine (1.82 g, 23.0 mmol). Gradually, almost all the solids dissolved and the resultant reaction mixture was stirred at room temperature for two days. After all the solvent had been removed by rotary evaporation, the residual oil (smell of acetic acid) was mixed with a small amount of methylene chloride. The solution was passed through a small column containing silica gel saturated with hexane. The column was eluted with hexane until the yellow band developed reached its bottom. Then, it was eluted with methylene chloride. The second yellow fraction collected was then subjected to rotary evaporation and hexane was then added slowly to the concentrated solution to precipitate the product as a yellow solid. The product was collected, washed with hexane and air-dried overnight. Yield: 4.34 g (78.9%). Anal Calc. for C12H9NO2 : C, 72.35; H, 4.55; N, 7.03. Found: C, 71.84; H, 4.54; N, 6.90. Mass Spectroscopy: M+ , 199 (100%). Proton NMR (CDCl3),δ(ppm): 3.23 (singlet, 4H, alicyclic protons); 6.87 (singlet, 2H, olefinic protons); 7.03-7.33 (complex, 3H, aromatic protons). IR (KBr): ν(maleimide): 1710 cm-1, vs; 1772 cm-1, W.

reactant | N-phenyl-maleamic acid | 27.62 mmol, 6.00 g | C1(=CC=CC=C1)NC(\C=C/C(=O)O)=O | C10H9NO3
reactant | acetic anhydride | 61.42 mmol, 6.27 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 23.0 mmol, 1.82 g | C(C)N(CC)CC | C6H15N
solvent | acetone | about 100 ml | CC(=O)C | C3H6O
catalyst | nickel acetate tetrahydrate | 0.25 g | O.O.O.O.C(C)(=O)[O-].[Ni+2].C(C)(=O)[O-]
product | N-4-benzocyclobutenyl maleimide | C1=CC2=C1C=CC(=C2)N2C(C=CC2=O)=O | C12H7NO2
